US07056930B2
Trifluoro-methanesulfonic acid 3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl ester
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenol (31.51 g, 102 mmol) was dissolved in CH2Cl2 (250 mL) with triethylamine (20 mL, 143 mmol) and N-phenyltrifluoromethanesulfonimide (43.94 g, 123 mmol). The reaction was judged complete by TLC after 18 h, then quenched with saturated aqueous NaHCO3 solution (100 mL). The product was extracted with CH2Cl2 (3×100 mL), washed with water (200 mL), saturated aqueous NaCl solution (200 mL), dried through a cotton plug and concentrated to an oil. This was filtered through a silica pad (6×6 in), eluted with 15–20% EtOAc/hexanes and concentrated to a semi-solid (37.4 g, 83%). (TLC 25% EtOAc/hexanes Rf 0.30); 1H NMR (400 MHz, CDCl3) δ 7.46 (m, 2H), 7.34 (m, 3H), 7.28 (m, 1H), 7.13 (m, 1H), 7.08 (m, 1H), 6.95 (m, 1H), 3.90 (AB q, ΔAB=14.8, J=13.3 Hz, 2H), 3.27 (m, 1H), 3.16 (m, 1H), 3.04 (m, 1H), 2.22 (m, 2H), 2.03 (m, 4H), 1.81 (br d, J=12.9 Hz, 1H), 1.76 (m, 1H), 1.60 (m, 1H), 1.44 (m, 1H); 13C NMR (100 MHz, CDCl3) δ □ 154.4, 149.9, 130.2, 129.7, 129.0, 128.8, 128.0, 125.2, 125.1, 128.3, 118.2, 59.5, 52.4, 49.3, 38.1, 37.7, 36.5, 35.2, 24.2, 22.4; APCI MS m/z 440.1 (M+1)+.

reactant | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenol | 102 mmol, 31.51 g | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)O | C21H25NO
reactant | triethylamine | 143 mmol, 20 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 123 mmol, 43.94 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl ester | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C22H24F3NO3S
